US08044068B2
To a solution of methyl 2-amino-5-chlorobenzoate (2.5 g) in DMF (25 mL) was added chloroacetyl chloride (1.4 mL) with ice cooling. The resulting white crystals were collected by filtration and washed with water. The resulting white crystals were dried to obtain methyl 5-chloro-2-(2-chloroacetamide)benzoate (5.4 g).

reactant | methyl 2-amino-5-chlorobenzoate | 2.5 g | NC1=C(C(=O)OC)C=C(C=C1)Cl | C8H8ClNO2
reactant | chloroacetyl chloride | 1.4 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl 5-chloro-2-(2-chloroacetamide)benzoate | 5.4 g | CC(C1=C(C=C(C=C1)Cl)C(=O)O)(C(=O)N)Cl | C10H9Cl2NO3
